US07915288B2
LAH (3.6 ml of 1M in THF, 3.62 mmol) is added to a solution of 1-chloro-3-methyl-isoquinoline-4-carbaldehyde (744 mg, 3.62 mmol) in THF (10 ml) at 0° C. After stirring for 30 min at ambient temperature, the mixture is quenched with small amounts of saturated sodium sulfate and filtered through a pad of celite. The filtrate is concentrated in vacuo to give the crude alcohol. SOCl2 (13 ml of 2M in DCM, 25 mmol) is added to a solution of the crude alcohol in DCM (5 ml). After stirring for 1 h at room temperature, the mixture is concentrated in vacuo and the residue is chromatographed on silica gel to give 737 mg of 1-chloro-4-chloromethyl-3-methyl-isoquinoline. 1H NMR (CDCl3) 8.44 (d, 1H), 8.18 (d, 1H), 8.02 (t, 1H), 7.82 (t, 1H), 5.03 (s, 2H), 3.00 (s, 3H).

reactant | LAH | 3.62 mmol, 1M, 3.6 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-chloro-3-methyl-isoquinoline-4-carbaldehyde | 3.62 mmol, 744 mg | ClC1=NC(=C(C2=CC=CC=C12)C=O)C | C11H8ClNO
reactant | SOCl2 | 25 mmol, 2M, 13 ml | O=S(Cl)Cl | Cl2OS
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-4-chloromethyl-3-methyl-isoquinoline | 737 mg | ClC1=NC(=C(C2=CC=CC=C12)CCl)C | C11H9Cl2N
